US07491718B2
N-(2-bromo-4-isopropylphenyl)acetamide
A mixture of 2-bromo-4-isopropylaniline (5.05 g, 23.6 mmol), acetic anhydride (2.4 mL, 25 mmol), and triethylamine (3.5 mL, 25 mmol) in dichloromethane (25 mL) was stirred at ambient temperature for 4 days. The mixture was diluted with dichloromethane, washed sequentially with saturated aqueous Na2CO3 and 1M HCl, dried (MgSO4), filtered, and concentrated to provide the desired product (5.85 g). MS (DCI) m/e 256, 258 (M+H)+; 273, 275 (M+NH4)+.

reactant | 2-bromo-4-isopropylaniline | 23.6 mmol, 5.05 g | BrC1=C(N)C=CC(=C1)C(C)C | C9H12BrN
reactant | acetic anhydride | 25 mmol, 2.4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 25 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-(2-bromo-4-isopropylphenyl)acetamide | 5.85 g | BrC1=C(C=CC(=C1)C(C)C)NC(C)=O | C11H14BrNO
